US06649657B2
A solution of BBr3 (1.0M in CH2Cl2, 111 mL, 111 mmol) was slowly added to a solution of N-(3-methoxy-benzyl)-methanesulfonamide (12.000 g, 55.7 mmol) in CH2Cl2(200 mL) at 0° C. The reaction methanesulfonamide (12.000 g, 55.7 mmol) in CH2Cl2(200 mL) at 0° C. The reaction cautiously added and the solution was concentrated in vacuo. Flash chromatography (1:1 hexanes:EtOAc) provided N-(3-hydroxy-benzyl)-methanesulfonamide (11.50 g). 1H NMR (400 MHz, CDCl3) δ 7.20 (m, 1H), 6.84 (m, 2H), 6.77 (m, 1H), 4.83 (bs, 1H), 4.24 (s, 2H), 2.86 (s, 3H); MS 201 (M+).

reactant | BBr3 | 111 mmol, 1.0M, 111 mL | B(Br)(Br)Br | BBr3
reactant | N-(3-methoxy-benzyl)-methanesulfonamide | 55.7 mmol, 12.000 g | COC=1C=C(CNS(=O)(=O)C)C=CC1 | C9H13NO3S
reactant | methanesulfonamide | 55.7 mmol, 12.000 g | CS(=O)(=O)N | CH5NO2S
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | N-(3-hydroxy-benzyl)-methanesulfonamide | 11.50 g | OC=1C=C(CNS(=O)(=O)C)C=CC1 | C8H11NO3S
